US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-chlorobenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 4-chlorobenzoyl chloride in a similar manner as described above to give a tan solid (69% yield). 1H-NMR (CDCl3): δ 8.89 (s, 1H), 7.71 (d, 2H), 7.60 (m, 1H), 7.40 (d, 2H), 7.23 (dd, 1H), 7.17 (dd, 1H), 6.36 (d, 1H), 5.30 (m, 1H), 2.69 (m, 2H), 2.29 (m, 1H), 1.96 (m, 3H); MS m/z 403 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-chlorobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC=C(C=C1)Cl)=O | C19H16BrClN2O
